US05045556
14.8 g (80 mmol) of o-chlorophenylacetic acid hydrazide are suspended in 230 ml of dichloromethane. At 5°, 12 g (80 mmol) of 2-chloro-2-(N-methylimino)acetic acid ethyl ester [Tetrahedron Lett. 30, 2827 (1979)] are added dropwise thereto. The whole is then stirred for 2 hours while cooling with ice and then overnight at room temperature. The reaction mixture is then poured onto ice, 50 ml of 2N hydrochloric acid are added thereto and the whole is extracted twice with dichloromethane. The combined dichloromethane phases are washed twice with water. All the acidic aqueous phases are combined, rendered alkaline with solid sodium carbonate and extracted three times by shaking with dichloromethane. These three organic phases are combined, washed in succession with water and saturated sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. The residue is taken up in 150 ml of xylene and stirred under reflux for 44 hours. The reaction mixture is then concentrated and chromatographed over silica gel using ethyl acetate as eluant. The eluate is concentrated by evaporation and recrystallised from ether. 5-(o-chlorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxylic acid ethyl ester of m.p. 87°-88° is obtained in a yield of 12.4 g (55% of the theoretical yield).

reactant | o-chlorophenylacetic acid hydrazide | 80 mmol, 14.8 g | ClC1=C(C=CC=C1)CC(=O)NN | C8H9ClN2O
reactant | 2-chloro-2-(N-methylimino)acetic acid ethyl ester | 80 mmol, 12 g | C(C)OC(C(=NC)Cl)=O | C5H8ClNO2
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
solvent | dichloromethane | 230 ml | ClCCl | CH2Cl2
product | 5-(o-chlorobenzyl)-4-methyl-4H-1,2,4-triazole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN=C(N1C)CC1=C(C=CC=C1)Cl | C13H14ClN3O2
